US06211199B1
(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
According to the procedure of European Patent Application 0 393 738 A1, hydrolyze (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine using potassium hydroxide in isopropanol to give the title compound.

reactant | (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C21H26N4O4
reactant | potassium hydroxide | [OH-].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C18H22N4O2
